US04948810
9.11 g of diisopropylamine are dissolved in 120 ml of dry tetrahydrofuran, and 54 ml of n-hexane containing n-butyl lithium (10 w/v %) are added dropwise thereto for 15 minutes at -10°-0° C. After the mixture is stirred for 10 minutes, 60 ml of tetrahydrofuran containing 12.5 g of ethyl 3-(4-methoxyphenyl)propionate are added dropwise thereto for 45 minutes at the same temperature. The mixture is stirred for 20 minutes, and 50 ml of tetrahydrofuran containing 16.4 g of benzyl bromide and 9.24 g of hexamethylphosphoric triamide are added dropwise for 10 minutes at -60° C. The mixture is stirred at the same temperature for 2 hours, warmed up to room temperature for one hour under stirring, and stirred at room temperature for an additional one hour. Then, water and 10% hydrochloric acid are added thereto under cooling. The solution is extracted with ethyl acetate, washed, dried, filtered and evaporated to remove the solvent. The residue is purified by flash column chromatography (solvent; n-hexane: ethyl acetate=30:1) to give 9.5 g of ethyl 2-benzyl-3-(4-methoxyphenyl)propionate as colorless oil.

reactant | diisopropylamine | 9.11 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl 3-(4-methoxyphenyl)propionate | COC1=CC=C(C=C1)CCC(=O)OCC | C12H16O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml, 16.4 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml, 12.5 g | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | hexamethylphosphoric triamide | 9.24 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | n-hexane | 54 ml | CCCCCC | C6H14
product | ethyl 2-benzyl-3-(4-methoxyphenyl)propionate | 9.5 g | C(C1=CC=CC=C1)C(C(=O)OCC)CC1=CC=C(C=C1)OC | C19H22O3
